US07557112B2
440 mg of potassium tert-butoxide was added to a mixture of 650 mg of 1-[2-(4-chloro-2,5-difluorophenyl)thieno[3,2-d]pyrimidine-4-yl]azepane-4-one, 380 mg of p-toluensulfonylmethyl isocyanide, 20 ml of 1,2-dimethoxyethane and 10 ml of THF and the resultant was stirred for one hour under ice cooling. After the reaction mixture was concentrated under reduced pressure, 50 ml of water was added to the obtained residue and extracted twice with 100 ml of EtOAc. After the organic layer washed with a saturated saline solution and dried over anhydrous magnesium sulfate, the solvent was removed under reduced pressure. The obtained residue was purified by silica gel column chromatography chloroform-MeOH) and a foam-like substance was obtained. 50 ml of EtOAc and 0.5 ml of 4M HCl-EtOAc solution were added to the foam-like substance and the solvent was removed under reduced pressure to give a solid. The obtained solid was washed with ethyl acetate to give 150 mg of 1-[2-(4-chloro-2,5-difluorophenyl)thieno[3,2-d]pyrimidine-4-yl]azepane-4-carbonitrile hydrochloride.

reactant | potassium tert-butoxide | 440 mg | CC(C)([O-])C.[K+]
reactant | 1-[2-(4-chloro-2,5-difluorophenyl)thieno[3,2-d]pyrimidine-4-yl]azepane-4-one | 650 mg | ClC1=CC(=C(C=C1F)C=1N=C(C2=C(N1)C=CS2)N2CCC(CCC2)=O)F | C18H14ClF2N3OS
reactant | p-toluensulfonylmethyl isocyanide | 380 mg | C1(=CC=C(C=C1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
reactant | HCl EtOAc | 4M, 0.5 ml | Cl.CCOC(=O)C
solvent | EtOAc | 50 ml | CCOC(=O)C | C4H8O2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | 1,2-dimethoxyethane | 20 ml | COCCOC | C4H10O2
product | 1-[2-(4-chloro-2,5-difluorophenyl)thieno[3,2-d]pyrimidine-4-yl]azepane-4-carbonitrile hydrochloride | 150 mg | Cl.ClC1=CC(=C(C=C1F)C=1N=C(C2=C(N1)C=CS2)N2CCC(CCC2)C#N)F | InChI=1S/C19H15ClF2N4S.ClH/c20-13-9-14(21)12(8-15(13)22)18-24-16-4-7-27-17(16)19(25-18)26-5-1-2-11(10-23)3-6-26;/h4,7-9,11H,1-3,5-6H2;1H
